US08912200B2
Step 2: 5-(2-Aminopyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl]-1H-pyrrole-3-carboxylic acid (V)
Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1H-pyrrole-3-carboxylate (1.0 g, 2.80 mmol) was treated with a 1.5 M solution of potassium hydroxide in 95% EtOH (32.4 mL, 20 eq) under reflux for 20 h. After cooling, the residue was concentrated, dissolved in water and washed with DCM. To the aqueous phase cooled to 5° C., a solution of 2 N HCl was added, under agitation. The resultant precipitate was collected by filtration to give the title compound (0.92 g, 95%).

reactant | Ethyl 5-(2-aminopyrimidin-4-yl)-2-(5-chloro-2-methylphenyl)-1H-pyrrole-3-carboxylate | 2.80 mmol, 1.0 g | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)OCC | C18H17ClN4O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | EtOH | 32.4 mL, 20 eq | CCO | C2H6O
product | 5-(2-Aminopyrimidin-4-yl)-2-(5-chloro-2-methyl-phenyl]-1H-pyrrole-3-carboxylic acid | 0.92 g, 95% | NC1=NC=CC(=N1)C1=CC(=C(N1)C1=C(C=CC(=C1)Cl)C)C(=O)O | C16H13ClN4O2
